US04046900
A solution of 10.4 g of 4-(4-phenylbenzoyl)piperidine, 8.8 g of 3-(2-bromoethyl)indole and 4.5 g of triethylamine in 300 ml of dimethylformamide is treated according to the manipulative procedures outlined in Example 3(b) to produce 3-{2-[4-(4-phenylbenzoyl)piperidyl]ethyl}indole. The indole is recrystallized twice from an ethanol-water mixture (one charcoal treatment), thrice from a pyridine-water mixture, and twice from an acetone-water mixture to give the product, mp 189°-192° C.

reactant | 4-(4-phenylbenzoyl)piperidine | 10.4 g | C1(=CC=CC=C1)C1=CC=C(C(=O)C2CCNCC2)C=C1 | C18H19NO
reactant | 3-(2-bromoethyl)indole | 8.8 g | BrCCC1=CNC2=CC=CC=C12 | C10H10BrN
reactant | triethylamine | 4.5 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | 3-{2-[4-(4-phenylbenzoyl)piperidyl]ethyl}indole | C1(=CC=CC=C1)C1=CC=C(C(=O)C2CCN(CC2)CCC2=CNC3=CC=CC=C23)C=C1 | C28H28N2O
